US09416111B2
To a solution of methyl trans-4-[1-(5-chloropyrimidin-2-yl)-1-hydroxyethyl]cyclohexanecarboxylate (54 mg, 0.18 mmol) and triethylamine (36 mg, 0.36 mmol) in dichloromethane (2 mL) was added in portions methanesulfonyl chloride (22 mg, 0.2 mmol) at 0° C. for 10 minutes. The mixture was stirred for 3 hours at 0° C. followed by dilution with brine and extraction with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by prep-TLC (ethyl acetate/petroleum ether) to give methyl trans-4-[1-(5-chloropyrimidin-2-yl)ethenyl]cyclohexanecarboxylate. MS ESI calc'd for C14H18ClN2O2 [M+H]+ 281. found 281. 1H NMR: (400 MHz, CDCl3) δ 8.64 (s, 2H), 6.37 (s, 1H), 5.47 (s, 1H), 3.68 (s, 3H), 2.99-2.96 (m, 1H), 2.37-2.34 (m, 1H), 2.08-1.96 (m, 4H), 1.66-1.60 (m, 2H), 1.34-1.25 (m, 2H).

reactant | methyl trans-4-[1-(5-chloropyrimidin-2-yl)-1-hydroxyethyl]cyclohexanecarboxylate | 0.18 mmol, 54 mg | ClC=1C=NC(=NC1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H19ClN2O3
reactant | triethylamine | 0.36 mmol, 36 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.2 mmol, 22 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | methyl trans-4-[1-(5-chloropyrimidin-2-yl)ethenyl]cyclohexanecarboxylate | ClC=1C=NC(=NC1)C(=C)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H17ClN2O2
